US07300935B2
Production of 3-methoxy-6-methyl-2-nitropyridine
Potassium carbonate (4.15 g) and methyl iodide (2.80 ml) were added to a solution of 6-methyl-2-nitro-3-hydroxypyridine (4.63 g) in DMF (120 ml), and the mixture was stirred at room temperature for 14 hours. The reaction mixture was distributed between ethylacetate and water. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate/hexane to give the title compound (3.94 g) as needle crystals.

reactant | Potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.80 ml | CI | CH3I
reactant | 6-methyl-2-nitro-3-hydroxypyridine | 4.63 g | CC1=CC=C(C(=N1)[N+](=O)[O-])O | C6H6N2O3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-methoxy-6-methyl-2-nitropyridine | 3.94 g | COC=1C(=NC(=CC1)C)[N+](=O)[O-] | C7H8N2O3
